US08058432B2
Step 1: Synthesis of 5-methyl-2-nitrobenzoic acid methyl ester
There was dissolved, in 200 mL of N,N-dimethylformamide, 20.0 g of 5-methyl-2-nitrobenzoic acid, 22.9 g of potassium carbonate and then 8.2 mL of methyl iodide were added to the resulting solution and the mixture was stirred at room temperature for 4 hours. To the reaction liquid, there were added 400 mL of water and 200 mL of a 1M hydrochloric acid solution, then extracted with 900 mL of ethyl acetate, the extract was washed with 200 mL of a saturated sodium hydrogen carbonate solution and 200 mL of a saturated common salt solution and the solvent was then distilled off under reduced pressure to thus give 20.6 g of the title compound as a crude product.

reactant | 5-methyl-2-nitrobenzoic acid | 20.0 g | CC=1C=CC(=C(C(=O)O)C1)[N+](=O)[O-] | C8H7NO4
reactant | potassium carbonate | 22.9 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 8.2 mL | CI | CH3I
reactant | hydrochloric acid | 1M | Cl | ClH
solvent | N,N-dimethylformamide | 200 mL | CN(C=O)C | C3H7NO
solvent | water | 400 mL | O | H2O
product | 5-methyl-2-nitrobenzoic acid methyl ester | COC(C1=C(C=CC(=C1)C)[N+](=O)[O-])=O | C9H9NO4
